US06515011B2
To a stirred solution of 2-(1-aminoethyl)-5-chlorobenzyl alcohol from the previous step (0.2 g, 1.1 mmol) in DMF (5.0 mL) at ambient temperature under nitrogen atmosphere was added Boc2O (0.25 g, 1.15 mmol). The mixture was stirred at ambient temperature for 18 h. The reaction was concentrated in vacuo and the residue was purified by flash silica gel chromatography using dichloromethane as an eluent. 2-(1-(tert-butyloxycarbonylamino)ethyl)-5-chlorobenzyl alcohol was obtained as a yellow oil after concentration of desired fractions in vacuo (0.272 g; HPLC RT=3.24 min, method A; 1H NMR, 400 MHz, CDCl3, 7.33 ppm (d, 1H), 7.26 ppm (dd, 2H), 5.12 ppm (br s, 1H), 5.0 ppm (m, 1H), 4.9 ppm (d, 1H), 4.46 ppm (m, 1H), 4.22 ppm (br s, 1H), 1.42 ppm (d, 3H), 1.36 ppm (s, 9H)).

reactant | 2-(1-aminoethyl)-5-chlorobenzyl alcohol | NC(C)C1=C(CO)C=C(C=C1)Cl | C9H12ClNO
reactant | Boc2O | 1.15 mmol, 0.25 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 2-(1-(tert-butyloxycarbonylamino)ethyl)-5-chlorobenzyl alcohol | C(C)(C)(C)OC(=O)NC(C)C1=C(CO)C=C(C=C1)Cl | C14H20ClNO3
